US05861401
Sodium hydride (60% dispersion in oil; 0.1 g) was added to a solution of 5-amino-2-chloro-4-methoxypyrimidine (0.159 g) in 1,2-dimethoxyethane (10 ml). When evolution of hydrogen had ceased, 5-dimethylamino-1-naphthalenesulphonyl chloride (0.336 g) was added and the solution was stirred for 2 hours. Volatile material was then removed by evaporation. The residue was purified by elution with ethyl acetate/hexane/acetic acid (0-20% ethyl acetate, 0.1% acetic acid) through a silica gel Mega Bond Elut column to give 5-dimethylamino-N-(2-chloro-4-methoxy-5-pyrimidinyl)-1-naphthalenesulphonamide (0.067 g) as an oil; 1H NMR (d6 -DMSO): 2.85 (s, 6H), 3.39 (s, 3H), 7.3 (d, 1H), 7.6 (t of t, 2H), 8.08 (d, 1H), 8.25 (s, 1H), 8.30 (d, 1H), 8.5 (d, 1H), 10.42 (s, 1H); mass spectrum (+ve FAB, dichloromethane/NBA): 393 (M+H)+.

reactant | Sodium hydride | 0.1 g | [H-].[Na+]
reactant | 5-amino-2-chloro-4-methoxypyrimidine | 0.159 g | NC=1C(=NC(=NC1)Cl)OC | C5H6ClN3O
reactant | hydrogen | [H][H] | H2
reactant | 5-dimethylamino-1-naphthalenesulphonyl chloride | 0.336 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 5-dimethylamino-N-(2-chloro-4-methoxy-5-pyrimidinyl)-1-naphthalenesulphonamide | 0.067 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC=1C(=NC(=NC1)Cl)OC)C | C17H17ClN4O3S
